US06326386B1
3-Chloro-N-isopropyl-5-methoxy-N-(2-methylcarbamoyl-ethyl)-benzamide
To a stirred solution of 3-[(3-chloro-5-methoxy-benzoyl)-isopropyl-amino]-propionic acid (0.600 g), TBTU (1.28 g) in DMF (10 ml) was added DIPEA (0.696 ml) followed a 2M solution of methylamine in THF (8.0 ml) after 10 min. The reaction mixture was stirred at room temperature for 4 h and then concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water. The organic phase was washed with further water and 1M aqueous hydrochloric acid, saturated aqueous sodium bicarbonate, water and dried with brine and over sodium sulphate and concentrated under reduced pressure to give the title compound as a brown oil (0.575 g).

reactant | 3-[(3-chloro-5-methoxy-benzoyl)-isopropyl-amino]-propionic acid | 0.600 g | ClC=1C=C(C(=O)N(CCC(=O)O)C(C)C)C=C(C1)OC | C14H18ClNO4
reactant | TBTU | 1.28 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.696 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | methylamine | CN | CH5N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | THF | 8.0 ml | C1CCOC1 | C4H8O
product | 3-Chloro-N-isopropyl-5-methoxy-N-(2-methylcarbamoyl-ethyl)-benzamide | 0.575 g | ClC=1C=C(C(=O)N(CCC(NC)=O)C(C)C)C=C(C1)OC | C15H21ClN2O3
